US05317016
A solution of (2S,4S)-1-p-methoxybenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol (22.33 g: 41.37 mmole) is diluted with dichloromethane (300 ml) and the mixture is cooled to -30° C. To this mixture, triethylamine (6.92 ml: 1.2 eq.) and methanesulfonyl chloride (3.52 ml: 1.1 eq.) are added, and the mixture is stirred for 20 minutes. The reaction mixture is successively washed with dilute hydrochloric acid and water, dried over magnesium sulfate, and filtered. The filtrate is concentrated in vacuo to give crude (2S,4S)-1-p-methoxybenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol methanesulfonate (27.81 g: 45.02 mmole). Yield: 100%. NMR δ(CDCl3) ppm: 2.89(s, 3H), 3.81, 3.83(2×s, 3H), 4.85 to 5.07(m, 2H). IR ν (CHCl3) cm-1 : 1725, 1690, 1610.

reactant | (2S,4S)-1-p-methoxybenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol | 41.37 mmole, 22.33 g | COC1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CO)C=C1 | C33H33NO4S
reactant | triethylamine | 6.92 ml, 1.2 eq. | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.52 ml, 1.1 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | (2S,4S)-1-p-methoxybenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol methanesulfonate | 45.02 mmole, 27.81 g, Yield: 100% | CS(=O)(=O)OC[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)OC | C34H35NO6S2
